US06858414B2
Crude deferoxamine B hydrochloride (7.88 kg) containing 5.30 kg deferoxamine B was dissolved in water (362 L). The aqueous solution was then passed through an equal volume of Diaion® SP 207 adsorption resin (Mitsubishi Chemical Corp.) in a 10 liter chromatographic column at a flow rate of 14 L h−1. The eluent contained 5.04 kg deferoxamine. Ammonium chloride was then added in an amount of 5 g L−1 to the eluent with stirring until the ammonium chloride completely dissolved. The solution was then loaded onto a column containing Amberlite® XAD 1180 adsorption resin (132 L) (Rohm & Haas) and driven into the bed with salt water. The column was eluted with 10% acetonitrile-water and then 20% acetonitrile-water at a flow rate of 14 L h−1. The eluent was collected in fractions. The main fraction yielded deferoxamine hydrochloride solution containing 4.53 kg of deferoxamine B. The main fraction was then decolorized over activated carbon (45 g) and Duolite® C 467 (Rohm and Haas) ion exchange resin in H+ form yielding deferoxamine hydrochloride solution containing 4.03 kg of deferoxamine B.

reactant | deferoxamine B | 5.30 kg | CC(=O)N(CCCCCNC(=O)CCC(=O)N(CCCCCNC(=O)CCC(=O)N(CCCCCN)O)O)O | C25H48N6O8
reactant | deferoxamine | 5.04 kg | CC(=O)N(CCCCCNC(=O)CCC(=O)N(CCCCCNC(=O)CCC(=O)N(CCCCCN)O)O)O | C25H48N6O8
reactant | Ammonium chloride | [Cl-].[NH4+]
solvent | water | 362 L | O | H2O
product | deferoxamine hydrochloride | CC(=O)N(CCCCCNC(=O)CCC(=O)N(CCCCCNC(=O)CCC(=O)N(CCCCCN)O)O)O.Cl | InChI=1S/C25H48N6O8.ClH/c1-21(32)29(37)18-9-3-6-16-27-22(33)12-14-25(36)31(39)20-10-4-7-17-28-23(34)11-13-24(35)30(38)19-8-2-5-15-26;/h37-39H,2-20,26H2,1H3,(H,27,33)(H,28,34);1H
